US07319103B2
8-{3-Chloro-4-[3-(2-(R)-methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-6,7-dihydro-5H-1,4,8a-triaza-s-indacene
Using the method described for the preparation of 10-{4-[3-(2-Methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene, the reaction of 8-[(3-chloro)-4-(3-chloro-propoxy)-phenyl]-6,7-dihydro-5H-1,4,8a-triaza-s-indacene and 2-(R)-methyl-pyrrolidine provided the title compound.

reactant | 10-{4-[3-(2-Methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | CC1N(CCC1)CCCOC1=CC=C(C=C1)C=1N2N=CC=C2N=C2C1CCCCC2 | C25H32N4O
reactant | 8-[(3-chloro)-4-(3-chloro-propoxy)-phenyl]-6,7-dihydro-5H-1,4,8a-triaza-s-indacene | ClC=1C=C(C=CC1OCCCCl)C1=C2CCCC2=NC2=CC=NN12 | C18H17Cl2N3O
reactant | 2-(R)-methyl-pyrrolidine | C[C@H]1NCCC1 | C5H11N
product | 8-{3-Chloro-4-[3-(2-(R)-methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-6,7-dihydro-5H-1,4,8a-triaza-s-indacene | ClC=1C=C(C=CC1OCCCN1[C@@H](CCC1)C)C1=C2CCCC2=NC2=CC=NN12 | C23H27ClN4O
